US06479219B2
A dried reaction flask equipped for magnetic stirring was flushed with nitrogen and charged with tris(trimethylsilyl)methane (23.3 grams, 100 mmol, available from Aldrich Chemical Company, Inc.) and dry tetrahydrofuran (200 mL). A 1.4 F solution of methyllithium in diethyl ether (86 mL, 120 mmol, available from Aldrich Chemical Company, Inc.) was added, and the reaction mixture was stirred at room temperature for 20 hours. The solution was cooled to −78 ° C., and copper(I) bromide-dimethyl sulfide complex (0.72 gram, 3.5 mmol) and hexamethylphosphoramide (30 grams, 170 mmol) were added to the cooled reaction mixture with stirring. Acrolein (5.3 mL, 4.9 grams, 80 mmole) dissolved in a 1 M solution of tert-butyldimethylsilyl chloride in tetrahydrofuran (100 mL, 100 mmol, available from Aldrich Chemical Company, Inc.), was added to the reaction mixture dropwise, with stirring, over a period of 1 hour. After an additional 2 hours reaction time, triethylamine (14.0 mL, 10.1 grams, 100 mmol) was added, and the reaction mixture was subsequently allowed to warm to room temperature. The reaction mixture was diluted with pentane (300 mL), water (50 mL) was added, and the mixture was transferred to a separatory funnel. The organic phase was separated from the aqueous phase and washed with water (ten×50-mL portions) to remove hexamethylphosphoramide. The combined aqueous washes were extracted once with pentane (100 mL), and the combined organic phases were washed once with a saturated aqueous sodium chloride solution (100 mL) and dried over magnesium sulfate. The mixture was filtered, and the filtrate was concentrated in a rotary evaporator under reduced pressure. Vacuum distillation of the residue afforded (E)-8,8-bis(trimethylsilyl)-2,2,3,3,9,9-hexamethyl-4-oxa-3,9-disiladec-5-ene as a clear, colorless liquid (24.2 grams, 75 percent). The 1H, 13C, and 29Si NMR spectra of the product were consistent with the structure of (E)-8,8-bis(trimethylsilyl)-2,2,3,3,9,9-hexamethyl-4-oxa-3,9-disiladec-5-ene.

reactant | tris(trimethylsilyl)methane | 100 mmol, 23.3 grams | C[Si](C)(C)C([Si](C)(C)C)[Si](C)(C)C | C10H28Si3
reactant | methyllithium | C[Li]
reactant | diethyl ether | 120 mmol, 86 mL | C(C)OCC | C4H10O
reactant | hexamethylphosphoramide | 170 mmol, 30 grams | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | Acrolein | 80 mmole, 5.3 mL, 4.9 grams | C(=O)C=C | C3H4O
reactant | triethylamine | 100 mmol, 14.0 mL, 10.1 grams | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | pentane | 300 mL | CCCCC | C5H12
solvent | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mmol, 100 mL | O1CCCC1 | C4H8O
product | (E)-8,8-bis(trimethylsilyl)-2,2,3,3,9,9-hexamethyl-4-oxa-3,9-disiladec-5-ene | C[Si](C(C/C=C/O[Si](C(C)(C)C)(C)C)([Si](C)(C)C)[Si](C)(C)C)(C)C | C19H46OSi4
